US05593660
a) Tris-[N,N-bis-(methoxycarbonylethyl)-2-aminoethyl]-amine
14.69 g (0.100 mol) of tris-(2-aminoethyl)-amine, dissolved in 20 ml of methanol, is instilled in 103.3 g (1.20 mol) of methyl acrylate with stirring at 20° C. The batch is stirred under argon atmosphere for 5 days at room temperature and for 2 days at 50° C. Then, it is concentrated by evaporation in a vacuum and excess methyl acrylate is removed by azeotropic distillation with toluene. The residue is taken up in 150 ml of methanol and 30 ml of diethyl ether, absorptively precipitated with 150 ml of hexane and, after separation of the hexane phase, concentrated by evaporation in a vacuum. The product is obtained as yellowish liquid, which is further reacted without purification.

reactant | tris-(2-aminoethyl)-amine | 0.100 mol, 14.69 g | NCCN(CCN)CCN | C6H18N4
reactant | methyl acrylate | 1.20 mol, 103.3 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 20 ml | CO | CH4O
product | Tris-[N,N-bis-(methoxycarbonylethyl)-2-aminoethyl]-amine | COC(=O)CCN(CCN(CCN(CCC(=O)OC)CCC(=O)OC)CCN(CCC(=O)OC)CCC(=O)OC)CCC(=O)OC | C30H54N4O12
